US06331538B1
Using the General Method 6A, the reaction of 10% Pd/C (0.05 g) with 1-(3-methoxyphenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione (Example V-1, 0.15 g, 0.26 mmol) afforded 0.12 g of 1-(3-methoxyphenyl)-6-fluoro-3-hydroxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione as a solid.

reactant | 1-(3-methoxyphenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.26 mmol, 0.15 g | COC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)NC(=O)OC(C)(C)C)F)=O)OCC1=CC=CC=C1)=O | C31H33FN4O6
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 1-(3-methoxyphenyl)-6-fluoro-3-hydroxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.12 g | COC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)NC(=O)OC(C)(C)C)F)=O)O)=O | C24H27FN4O6
